US05538986
Dissolved methyl 3-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-propenoate (6.00 g, 0.0188 mol) in 80 mL of dry THF. Cooled to 0° C. under a nitrogen atmosphere, and added lithium aluminum hydride (18.8 mL of 1.0M in THF, 0.018 mol) via syringe. Warmed slowly to room temperature and stirred for 20 hours. Recooled to 0° C., and carefully added 0.8 mL water, 0.8 mL of 1N NaOH, and then 2.5 mL of water in sequence. Stirred at room temperature for 1 hour, and filtered through celite. Washed filtrate with saturated NH4Cl, dried with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 1:4 ethyl acetate:hexane then 1:2 ethyl acetate:hexane. Combined appropriate fractions, and evaporated to give 4.87 g (89% yield) of 3-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-prop-2-en-1-ol as a colorless oil.

reactant | methyl 3-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-propenoate | 0.0188 mol, 6.00 g | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C=CC(=O)OC | C22H22O2
reactant | lithium aluminum hydride | 0.018 mol, 1.0M, 18.8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.8 mL | O | H2O
reactant | NaOH | 1N, 0.8 mL | [OH-].[Na+]
reactant | water | 2.5 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-prop-2-en-1-ol | 4.87 g, 89% yield | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C=CCO | C21H22O
